US06919377B2
A mixture of HOAc and H2SO4 (1 mL, 9:1, v:v) was cooled to 10° C. 4-{4-[ethyl(3-phenylpropyl)amino]cyclohexyl}phenol (200 mg, 0.53 mmol) and 2-chloro-N-(hydroxymethyl)acetamide (66 mg, 0.53 mmol) were added portionwise. The reaction mixture was warmed to room temperature and stirred for 16 hours. The mixture was poured onto ice (1 g) and water (10 mL) was added. After concentration under reduced pressure, a mixture of EtOH and HCl (6.5 mL, 10:3, v:v) was added, and the mixture was heated under reflux for 1.5 hours. The mixture was cooled to room temperature and concentrated under reduced pressure. Purification by flash chromatography (silica, 90:10:0.5 CH2Cl2:MeOH:NH4OH), followed by formation of the HCl salt, gave 2-aminomethyl-4-{4-[ethyl(3-phenylpropyl)amino]cyclohexyl}phenol (65 mg, 28%), as a yellow solid: mp 168-173° C.; IR (KBr): 2940, 1510, 1453 cm−1; 1H NMR (500 MHz, DMSO-d6) δ 10.16 (br s, 1H), 9.96 (s, 1H), 8.1 (br s, 2H), 7.35-7.17 (m, 6H), 7.06 (dd, J=8 Hz, 1H), 6.85 (d, J=8 Hz, 1H), 3.90 (br d, J=5 Hz, 2H), 3.45-2.98 (m, 4H), 2.71-2.65 (m, 2H), 2.52-2.39 (m, 2M), 2.19-2.10 (m, 2H), 2.10-2.05 (m, 2H), 1.90-1.83 (m, 2H), 1.70-1.49 (m, 4H), 1.27 (t, J=7 Hz, 3H) API-MS (methane) (m/z): 367 [M+H]+; HRMS-API (m/z): [M+H]+ Calcd for C24H34N2O, 367.2749. found: 367.2741. Anal. Calcd for C24H34N2O.02HCl.H2O: C, 64.93; H, 8.29; N, 6.31. Found: C, 64.90; H, 8.53; N, 6.09.

reactant | HOAc | CC(=O)O | C2H4O2
reactant | H2SO4 | 1 mL | OS(=O)(=O)O | H2O4S
reactant | 4-{4-[ethyl(3-phenylpropyl)amino]cyclohexyl}phenol | 0.53 mmol, 200 mg | C(C)N(C1CCC(CC1)C1=CC=C(C=C1)O)CCCC1=CC=CC=C1 | C23H31NO
reactant | 2-chloro-N-(hydroxymethyl)acetamide | 0.53 mmol, 66 mg | ClCC(=O)NCO | C3H6ClNO2
solvent | water | 10 mL | O | H2O
product | 2-aminomethyl-4-{4-[ethyl(3-phenylpropyl)amino]cyclohexyl}phenol | 65 mg, 28% | NCC1=C(C=CC(=C1)C1CCC(CC1)N(CCCC1=CC=CC=C1)CC)O | C24H34N2O
